US08859574B2
To a mixture of 5-Chloro-N2-(2,5-dimethyl-4-(piperidin-2-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (0.12 mmol) and triethylamine (83 uL, 0.6 mmol) in DMF (1.5 mL), was added 2-bromoacetamide (35 mg, 0.24 mmol). The mixture was stirred at room temperature for 3 h. The reaction was filtered and the filtrate was purified by RP-HPLC to afford 2-(2-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)acetamide as a white solid; 1H NMR (400 MHz, MeOD-d4) 8.09 (s, 1H), 7.65 (d, 1H), 7.43 (s, 1H), 6.41 (s, 1H), 4.79-4.74 (m, 2H), 3.83-3.48 (m, 2H), 2.71 (s, 3H), 2.42 (s, 3H), 2.34 (s, 6H), 2.15-1.84 (m, 7H); ESMS m/z 469.2 (M+H+).

reactant | 5-Chloro-N2-(2,5-dimethyl-4-(piperidin-2-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.12 mmol | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1NCCCC1)C)NC1=NNC(=C1)C | C21H26ClN7
reactant | triethylamine | 0.6 mmol, 83 uL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetamide | 0.24 mmol, 35 mg | BrCC(=O)N | C2H4BrNO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-(2-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)acetamide | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1N(CCCC1)CC(=O)N)C)NC1=NNC(=C1)C | C23H29ClN8O
